US05656629
To a mixture of 4-pyridine acetic acid hydrochloride (4.3 g, 25 mmol) and DMF (50 ml) cooled in an ice bath was added NaH (1.0 g, 25 mmol, 60% dispersion in mineral oil). The resulting mixture was stirred for 30 minutes and then N,N'-carbonyldiimidazole (4.0 g, 24.6 mmol) was added followed 30 minutes later by 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carbonitrile (4.1 g, 20 mmol). The reaction mixture was stirred as such for 4 hours, then at room temperature for about 2 days, and then finally was heated on a steam bath for 2 hours. The reaction mixture was concentrated to dryness and water (50 ml) and acetic acid (5 ml) were added. The mixture was extracted with CH2Cl2 (300 ml), the organic layer was concentrated in vacuo and the resulting oil was crystallized from ether and purified by column chromatography on silica gel eluting with ether to afford 2.8 g (35%) of 1-cyclopentyl-3-ethyl-4-cyano-5-[(4-pyridinylmethyl)carbonylamino]-1H-pyrazole, as a viscous oil.

reactant | 4-pyridine acetic acid hydrochloride | 25 mmol, 4.3 g | Cl.N1=CC=C(C=C1)CC(=O)O
reactant | NaH | 25 mmol, 1.0 g | [H-].[Na+]
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carbonitrile | 20 mmol, 4.1 g | C1(CCCC1)N1N=C(C(=C1N)C#N)CC | C11H16N4
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-cyclopentyl-3-ethyl-4-cyano-5-[(4-pyridinylmethyl)carbonylamino]-1H-pyrazole | 2.8 g, 35% | C1(CCCC1)N1N=C(C(=C1NC(=O)CC1=CC=NC=C1)C#N)CC | C18H21N5O
